US04618692
(a) 3-hydroxy-ureido-acetic acid
5 g of palladium on activated charcoal are added to a solution of 22.4 g (0.1 mole) of benzyl-3-hydroxy-ureido-acetate in 300 ml of methanol. Hydrogen is introduced with shaking. After about 20 minutes the hydrogen uptake is finished. The catalyst is filtered off with suction and the filtrate is evaporated in a vacuum. The solid residue of crude 3-hydroxy-ureido-acetic acid is recrystallized from dioxane.

reactant | benzyl-3-hydroxy-ureido-acetate | 0.1 mole, 22.4 g | C(C1=CC=CC=C1)C(C(=O)[O-])NC(=O)NO
reactant | Hydrogen | [H][H] | H2
catalyst | palladium on activated charcoal | 5 g | [Pd] | Pd
solvent | methanol | 300 ml | CO | CH4O
product | 3-hydroxy-ureido-acetic acid | ONC(NCC(=O)O)=O | C3H6N2O4
